US06274584B1
(2E)-5-(tert-Butoxycarbonylamino)-5-methylhex-3-enoic acid (303 mg, 1.04 mmol) was dissolved in N,N-dimethylformamide (2 ml) and dichloromethane (2 ml). Hydroxy-7-azabenzotriazole (170 mg, 1.25 mmol) was added as a solid. The solution was cooled to 0° C. N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (299 mg, 1.56 mmol) was added. The solution was stirred for 10 min at 0° C. (2R)-2Methylamino)-3-(2-naphthyl)propionic acid N-methyl-N-phenethylamide (360 mg, 1.04 mmol) was dissolved in dichloromethane (2 ml) and added to the reaction mixture. Ethyldiisopropylamine (0.18 ml, 1.04 mmol) was added. The reaction mixture was stirred for 16 h, while it was warming to room temperature. The solution was diluted with water (200 ml) and ethyl acetate (150 ml). 10% aqueous sodium hydrogen sulfate solution (50 ml) was added. The phases were seperated, and the aqueous phase was extracted with ethyl acetate (4×50 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (200 ml) and dried over magensium sulfate. The solvent was removed in vacuc. The crude product was purified by flash chromatography on silica (110 g), using ethyl acetatetheptane 1:1 as eluent, to give 546 mg of (3E)-1,1-dimethyl-4-(N-methyl-N-(1R)-1-N-methyl-N-phenethylcarbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)but-3-enylcarbamic acid tert-butylester.

reactant | Hydroxy-7-azabenzotriazole | 1.25 mmol, 170 mg | OC1=CC=NC=2NN=NC21 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.56 mmol, 299 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-(2-naphthyl)propionic acid N-methyl-N-phenethylamide | 1.04 mmol, 360 mg | CN(C(CCC1=CC2=CC=CC=C2C=C1)=O)CCC1=CC=CC=C1 | C22H23NO
reactant | Ethyldiisopropylamine | 1.04 mmol, 0.18 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium hydrogen sulfate | 50 ml | S(=O)(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | but-3-enylcarbamic acid tert-butylester | C(C)(C)(C)OC(NCCC=C)=O | C9H17NO2
